US07750154B2
To a solution of N-cyclopropyl-3-[6-(2,3-dihydroxy-2-methylpropoxy)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide (0.2 g) in pyridine (10 ml) was added p-toluenesulfonylchloride (0.18 g) followed by 4-dimethylaminopyridine (cat.) and the mixture heated at 60° C. for 18 hours. The reaction mixture was concentrated under reduced pressure and redissolved in ethyl acetate. The organics were washed with 1N citric acid, brine, dried (magnesium sulfate) and concentrated to give the crude 3-[(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)oxy]-2-hydroxy-2-methylpropyl 4-methylbenzenesulfonate (0.21 g) which was used without further purification.

reactant | N-cyclopropyl-3-[6-(2,3-dihydroxy-2-methylpropoxy)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide | 0.2 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCC(CO)(C)O)=O | C23H25N3O5
reactant | p-toluenesulfonylchloride | 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-[(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)oxy]-2-hydroxy-2-methylpropyl 4-methylbenzenesulfonate | 0.21 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(COC=1C=C2C(N(C=NC2=CC1)C1=C(C=CC(=C1)C(=O)NC1CC1)C)=O)(C)O | C30H31N3O7S
